US07465731B2
The mixture of ethyl (2E)-5-chloro-4-oxo-2-pentenoate (0.8 g) and 1-[(3R)-1-(cyclohexylmethyl)-3-pyrrolidinyl]thiourea (1.09 g) in CH3CN (16 mL) was stirred at 70° C. for 2 hrs. To the reaction mixture was added an AcOEt (32 mL) and isolated precipitate was collected by filtration to give ethyl (2E)-3-(2-{[(3R)-1-(cyclohexylmethyl)-3-pyrrolidinyl]amino}thiazol-4-yl)acrylate hydrochloride (1.10 g).

reactant | ethyl (2E)-5-chloro-4-oxo-2-pentenoate | 0.8 g | ClCC(/C=C/C(=O)OCC)=O | C7H9ClO3
reactant | 1-[(3R)-1-(cyclohexylmethyl)-3-pyrrolidinyl]thiourea | 1.09 g | C1(CCCCC1)CN1C[C@@H](CC1)NC(=S)N | C12H23N3S
reactant | AcOEt | 32 mL | CCOC(=O)C | C4H8O2
solvent | CH3CN | 16 mL | CC#N | C2H3N
product | ethyl (2E)-3-(2-{[(3R)-1-(cyclohexylmethyl)-3-pyrrolidinyl]amino}thiazol-4-yl)acrylate hydrochloride | 1.10 g | Cl.C1(CCCCC1)CN1C[C@@H](CC1)NC=1SC=C(N1)/C=C/C(=O)OCC | InChI=1S/C19H29N3O2S.ClH/c1-2-24-18(23)9-8-17-14-25-19(21-17)20-16-10-11-22(13-16)12-15-6-4-3-5-7-15;/h8-9,14-16H,2-7,10-13H2,1H3,(H,20,21);1H/b9-8+;/t16-;/m1./s1
